Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
arthritis
 
Major Surgical or Invasive Procedure:
arthrocentesis of left knee

 
History of Present Illness:
___ woman with history of diabetes, hypertension, and 
osteoarthritis presenting with one month of progressive knee, 
ankle and hip pain. The pain began in the right knee then 
migrated to other joints. Currently, the pain is most severe in 
the right ankle and hip. The patient tried Aleve and Vicodin, 
then ibuprofen and Vidodin, without relief. The patient 
underwent steroid injection of the knee in orthopedics clinic on 
___, which provided some transient relief. The patient was 
sent in to the hospital by her primary care doctor for further 
management of her pain.  
.  
In the ED, initial vs were: T 97.6 P 85 BP 120/56 R 16 O2 sat 
100%/RA. Labs were drawn but no medications were given.  
.  
On the floor, the patient was without pain at rest but noted 
severe lower extremity pain with movement. She denied other 
complaints.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, 
dizziness, or lightheadedness. Denies cough, shortness of 
breath. Denied chest pain or tightness. Denied nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria. No focal weakness, 
tingling, numbness, visual changes, difficulty speaking or 
swallowing, or bowel/bladder incontinence.
 
Past Medical History:
arthritis  
DM2  
hyperlipidemia  
macular degeneration  
s/p appendectomy at age ___ or ___  
G7P4
 
Social History:
___
Family History:
Has family history of arthritis but unsure what type. 
 
Physical Exam:
Vitals: T 97.7: BP 118/83: P 78: R 20: O2 100%/RA:  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, no tenderness to palpation of spinous processes  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused. ___ bilateral ankle edema. 2+ distal 
pulses.  
Musculoskeletal: Full ROM with no pain throughout upper 
extremities.  
-Right hip: Flexion limited to 70 degrees. Not painful with 
logroll but very tender with internal/external rotation.  
-Left hip: Flexion limited to 90 degrees. No pain with passive 
ROM.  
-Knees: No effusion. Full extension. Flexion limited to 90 
degrees by pain. Mildly tender bilaterally to palpation along 
joint line.  
-Ankles: Very tender in joint line anteriorly. Pain with ROM.  
Neuro: A+Ox3. CN II-XII intact. Strength ___ throughout upper 
extremities. Strength testing limited by pain in lower 
extremities but at least ___ throughout. Sensation intact to 
light touch in feet.
 
Pertinent Results:
Admission labs:
___ 01:30PM BLOOD WBC-13.5* RBC-3.23* Hgb-9.1* Hct-28.0* 
MCV-87 MCH-28.3 MCHC-32.7 RDW-13.6 Plt ___
___ 01:30PM BLOOD Neuts-81.5* Lymphs-15.0* Monos-2.8 
Eos-0.4 Baso-0.3
___ 07:20AM BLOOD ___ PTT-25.4 ___
___ 01:30PM BLOOD Glucose-138* UreaN-23* Creat-1.2* Na-129* 
K-5.6* Cl-99 HCO3-19* AnGap-17
___ 06:25AM BLOOD ALT-20 AST-18 LD(LDH)-146 AlkPhos-44 
TotBili-0.2
___ 07:20AM BLOOD CK(CPK)-416* AlkPhos-49
___ 01:30PM BLOOD CK(CPK)-485*
___ 07:20AM BLOOD TotProt-6.5 Calcium-9.8 Phos-5.1* Mg-1.7 
UricAcd-3.4 Iron-18*
___ 01:30PM BLOOD ESR-103*
___ 07:20AM BLOOD calTIBC-352 VitB12-276 Folate-10.5 
Ferritn-133 TRF-271
___ 07:20AM BLOOD TSH-4.5*
___ 04:40PM BLOOD Free T4-0.99
___ 09:10AM BLOOD PTH-67*
___ 06:25AM BLOOD Cortsol-25.1*
___ 07:20AM BLOOD ___
___ 07:20AM BLOOD RheuFac-10
___ 07:20AM BLOOD PEP-AWAITING F IgG-516* IgA-84 IgM-28* 
IFE-PND
___ 07:20AM BLOOD CYCLIC CITRULLINATED PEPTIDE (CCP) 
ANTIBODY, IGG-PND
___ 06:25AM BLOOD Osmolal-274*
.
Discharge labs:
___ 07:30AM BLOOD WBC-12.1* RBC-2.77* Hgb-8.1* Hct-23.8* 
MCV-86 MCH-29.1 MCHC-33.9 RDW-13.7 Plt ___
___ 07:30AM BLOOD ___ PTT-26.0 ___
___ 07:30AM BLOOD Glucose-154* UreaN-27* Creat-1.1 Na-126* 
K-4.8 Cl-92* HCO3-21* AnGap-18
___ 07:30AM BLOOD Calcium-9.3 Phos-4.5 Mg-2.0
.
Urine studies:
___ 07:08PM URINE Color-Straw Appear-Clear Sp ___
___ 07:08PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-TR
___ 07:08PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 12:02PM URINE Hours-RANDOM Creat-112 Na-28 K-40 Cl-31
___ 10:13PM URINE Hours-RANDOM TotProt-29
___ 07:08PM URINE Hours-RANDOM Creat-36 TotProt-40 
Prot/Cr-1.1* Albumin-24.2 Alb/Cre-672.2*
___ 12:02PM URINE Osmolal-420
___ 10:13PM URINE U-PEP-NEGATIVE FOR ___ PROTEIN
.
Joint fluid from left knee:
___ 05:38PM JOINT FLUID ___ RBC-6500* Polys-93* 
___ ___ 05:38PM JOINT FLUID Crystal-MOD Shape-RHOMBOID 
Locatio-INTRAC Birefri-POS Comment-c/w calciu
.
Microbiology:
___ Blood cultures x 2: pending
___ Urine culture: MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.
___ Lyme serology: negative
___ JOINT FLUID  Source: Knee. 
   GRAM STAIN (Final ___: 
      2+ ___ per 1000X FIELD): POLYMORPHONUCLEAR LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   FLUID CULTURE (Preliminary): NO GROWTH. 
___ Urine culture: pending
.
EKG ___: Sinus rhythm. Consider left anterior fascicular 
block. Since the previous tracing of ___ probably no 
significant change.
.
Imaging:
.
CXR PA and lateral ___: Cardiomediastinal contours are 
normal. The lungs are clear. There is no pneumothorax or pleural 
effusion. Degenerative changes are in the thoracic spine. 
IMPRESSION: No evidence of pneumonia. 
.
Bilateral hips (AP, LAT & AP PELVIS) and knees (2 views) 
___: Chondrocalcinosis of the knees, hips and symphysis 
pubis, with associated osteoarthritis. 
.
Bilateral ankles (AP, LAT, and OBLIQUE) ___: No previous 
images. There is extensive soft tissue swelling about the ankles 
bilaterally, most prominently about the lateral malleoli, 
especially on the left. Degenerative changes are seen involving 
the ankle mortise on the right. Calcaneal spurs are seen 
bilaterally. No definite fracture is identified. On two views, 
there is suggestion of a well-corticated opacification adjacent 
to the base of the fifth metatarsal. This is of uncertain 
etiology and could be related to previous trauma. If there is 
serious clinical concern for fracture, cross-sectional imaging 
would be recommended.
.
Bilateral lower extremity venous ultrasound ___: No evidence 
of DVT in bilateral lower extremities.
 
Brief Hospital Course:
Assessment and Plan: ___ yo F with history of osteoarthitis 
presents with rapidly progressive arthritis affecting multiple 
joints of bilateral lower extremities R>L during past month, 
found to have pseudogout.
.  
# Acute pseudogout: The patient presented with a polyarticular 
arthritis involving her bilateral ankles, knees, and hips. 
Rheumatology was consulted. Arthrocentesis of left knee on 
___ showed rhomboid, positive-birefringent crystals 
consistent with calcium pyrophosphate deposition disease. Joint 
fluid WBC ___. Joint fluid gram stain with 2+ PMNs, no 
microorganisms. The joint fluid culture was pending at the time 
of discharge. ESR was 103. ___ was negative. Rheumatoid factor 
was 10 (normal). CCP was pending at the of discharge. Uric acid 
3.4. Calcium 9.8. Phos 5.1. PTH 67. Lyme serology was negative.
  The patient was treated with a prednisone taper as follows: 40 
mg on ___, 30 mg on ___, 20 mg to be given on ___, 
and 10 mg to be given on ___. The patient was also started 
on colchicine 0.6 mg PO daily. The patient symptoms began to 
improve with initiation of steriods. Her pain was controlled 
with Tylenol and oxycodone. NSAIDS were avoided given 
hyperkalemia and diabetic nephropathy. Pending studies at the 
time of discharge included CCP, SPEP, and joint fluid culture.
.
# Fever: The patient had a low-grade fever to 100.5 on the night 
of ___. There was no evidence of infection. Chest x-ray was 
normal. The patient's urinalysis was equivocal and the patient 
was without symptoms so no antibiotics were started. Blood and 
urine cultures were sent and were pending at the time of 
discharge.
.
# Hyperparathyroidism: The patient had PTH 67, with calcium 3.4 
and phosphate 5.1. This was thought to be secondary 
hyperparathyroidism given the patient's high phosphorus. This 
will need to be further evaluated as an outpatient.
.  
# Hyponatremia/SIADH: The patient was noted to be hyponatremic. 
Serum osmolality was 274 . Urine osmolality was 420, consistent 
with pain. The patient's SIADH was thought to be pain-mediated. 
There was no evidence of of an intrapulmonary or intracranial 
process. The patient was treated with a 1200 mL fluid 
restriction. Her sodium at the of discharge was 128. She will 
need to have her sodium checked daily until her hyponatremia 
resolves.
.  
# Hyperkalemia: The patient presented with potassium 5.6 and 
bicarbonate 19. There were no hyperkalemic changes on EKG. 
Initially, the patient's hyperkalemia was attributed to the 
patient's candesartan and NSAID use. Candesartan and NSAIDS were 
stopped. The patient's potassium trended down, reaching 4.8 on 
the day of discharge. However, her bicarbonate remained low, and 
it was postulated that she might have a type 4 renal tubular 
acidosis in the setting of her diabetes. This should be further 
evaluated as an outpatient after the patient's prednisone taper 
is complete.
.  
# Diabetes mellitus, type 2: The patient takes metformin and 
glipizide at home. There medications wre held on admission, and 
the patient was started on an insulin sliding scale. Glargine 7 
units daily was added due to hyperglycemia. This insulin regimen 
should be continued at rehab, but the patient should be 
restarted on her home regimen of metformin and glipizide (and 
insulin stopped) prior to discharge from rehab.
.  
# Elevated CK/Statin-induced myopathy: The patient presented 
with CK 485. Troponin and MB were not checked, but there were no 
EKG changes or symptoms to suggest myocardial infarction. The 
patient's CK elevation was thought to be related to the 
simvastatin and gemfibrozil that she was taking prior to 
admission. Simvastatin adn gemfibrozil were stopped, and the 
patient's CK trended down, reaching 104 on the day of discharge. 

.
# Hyperlipidemia: Simvastatin and gemfibrozil were held due to 
elevated CK. Consideration should be given to restarting the 
patient's statin in the outpatient setting.
.  
# Iron deficiency anemia: The patient's hematocrit was 28.0 on 
admission, down from 29.9 on ___. There was no evidence of 
bleeding. The patient's hematocrit trended down slightly during 
her admission to 23.8. This was attributed to extensive 
phlebotomy for the patient's rheumatology work-up. MCV was 87. 
Iron studies show iron 18, TIBC 52, ferritin 133, consistent 
with iron deficiency. B12 was Last colonoscopy ___ was 
normal. Folate was 10.5. B12 was borderline at 276. The patient 
was started on iron supplementation and given a vitamin B12 
injection. A methylmalonic acid level was pending at the time of 
discharge and will need to be followed up after discharge. 
Consideration should be given to further work-up of iron 
deficiency with endoscopy in the outpatient setting.
.  
# Subclinical hypothyroidism: The paient's TSH was 4.5, with 
free T4 0.99. No treatment was initiated.
.  
# Code status: DNR/DNI, confirmed with patient  
.  
# Communication: Healthcare proxy is son ___ 
___
 
Medications on Admission:
candesartan 2 mg daily  
gemfibrozil 600 mg BID  
glipizide 5 mg BID  
metformin 1000 mg BID  
simvastatin 80 mg QHS  
aspirin 81 mg daily  
Ocuvite 2 tabs BID
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO three 
times a day.  
3. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
4. Prednisone 20 mg Tablet Sig: One (1) Tablet PO once, on 
___ for 1 days.  
5. Prednisone 10 mg Tablet Sig: One (1) Tablet PO once, on 
___ for 1 days.  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
8. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
11. Polyethylene Glycol 3350 17 gram/dose Powder Sig: Seventeen 
(17) grams PO DAILY (Daily) as needed for constipation.  
12. Insulin Glargine 100 unit/mL Solution Sig: Seven (7) units 
Subcutaneous at bedtime.  
13. Humalog insulin sliding scale
Please see attached Humalog insulin sliding scale.
14. Ocuvite PreserVision     Tablet Sig: Two (2) Tablet PO twice 
a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
1. acute pseudogout
2. hyponatremia from syndrome of inappropriate secretion of 
anti-diuretic hormone (SIADH)
3. hyperkalemia
4. elevated creatinine kinase, likely from statin-induced 
myopathy
5. iron-deficiency anemia
.
Secondary:
1. diabetes mellitus, type 2
2. hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You came to the hospital with arthritis. You had some fluid 
removed from your left knee, and this fluid showed crystals from 
a condition called pseudogout. You were treated with prednisone 
and colchicine. You symptoms were improving at the time of 
discharge.
.
You were found to have a low sodium. This is caused by a hormone 
problem called SIADH (syndrome of inappropriate secretion of 
anti-diuretic hormone). SIADH is sometimes caused by pain, such 
as your arthritis pain. You were treated with a fluid 
restriction. You should limit yourself to no more than 1200 mL 
(5 cups) of fluid daily until your sodium normalizes. You will 
need to have your sodium level checked daily at rehab until this 
problem resolves.
.
You were found to have a high level of potassium. For this 
reason, your Atacand(candesartan) was stopped. You should also 
avoid medications like Aleve, Motrin, naproxen, and ibuprofen.
.
You were found to have an elevated level of an enzyme called 
creatine kinase. This can indicate injury to muscle. In your 
case, this was likely caused by your cholesterol medications, 
simvastatin and gemfibrozil. Your creatinine kinase normalized 
by the time that you were discharged. You should talk to you 
primary care doctor about restarting simvastatin (without 
gemfibrozil).
.
You were found to be anemic and iron-deficient. You were started 
on an iron supplement called ferrous sulfate. You should talk to 
your primary care doctor about your diagnosis of iron deficiency 
and discuss the need for further evaluation of this with 
endoscopy.
.
There are some changes to your medications.
START prednisone. Take 20 mg on ___ and 10 mg on ___.
START colchicine
START ferrous sulfate (iron)
STOP Atacand(candesartan).
STOP ibuprofen, Motrin, Aleve, naproxen and related medications.
STOP simvastatin.
STOP gembibrozil.
STOP metformin and glipizide while at rehab, where your blood 
sugar will be managed with insulin. You will likely stop taking 
insulin and restart metformin and glipizide after you leave 
rehab, but this will be determined by the rehab doctors.
.
Follow up as indicated below.
 
Followup Instructions:
___